US08580785B2
This compound is prepared as described in Acta. Chim. Slov. 2002, 49, 871 using the crude 6-amino-7-chloro-2-mercapto-3a,7a-dihydro-benzothiazole-5-carboxylic acid methyl ester as starting material. Methylation is performed with MeI and Et3N in DMF. The 6-amino-7-chloro-2-methylsulfanyl-3a,7a-dihydro-benzothiazole-5-carboxylic acid methyl ester is obtained, after column chromatography purification over silica gel, in 59% over 3 steps from 2,5-diamino-3-chloro-4-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid methyl ester (step d in example H17); LC/MS: 289/291 (M+1)+.

reactant | 6-amino-7-chloro-2-mercapto-3a,7a-dihydro-benzothiazole-5-carboxylic acid methyl ester | COC(=O)C=1C(=C(C2C(N=C(S2)S)C1)Cl)N | C9H9ClN2O2S2
reactant | MeI | CI | CH3I
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-amino-7-chloro-2-methylsulfanyl-3a,7a-dihydro-benzothiazole-5-carboxylic acid methyl ester | COC(=O)C=1C(=C(C2C(N=C(S2)SC)C1)Cl)N | C10H11ClN2O2S2
